US03961055
A mixture of 2-methoxy-6-methylthio-10-(3-chloropropyl)phenothiazine (9.2 g.), 4-hydroxyethylpiperidine (3.2 g.) and sodium bicarbonate (8.4 g.) in dimethylformamide (90 cc.) is heated at 120°C., with stirring, for 6 hours. The solvent is then evaporated under reduced pressure (0.1 mm.Hg) at 60°C. The residue is taken up in chloroform (80 cc.) and distilled water (80 cc.) and purification of the product is effected by making the medium acidic and then reprecipitating the base by the procedure mentioned in Example 1. 2-Methoxy-6-methylthio-10-[3-(4-hydroxyethylpiperidino)propyl]-phenothiazine (7.9 g.) in the crude state, in the form of an amorphous beige powder, is thus obtained. This powder is taken up in boiling acetonitrile (15 cc.). After cooling of the solution for 7 hours at a temperature of about 20°C., the crystals which have formed are filtered off, washed with acetonitrile (10 cc.) and with diethyl ether (60 cc.) and then dried at 45°C. under reduced pressure (0.05 mm.Hg) for 17 hours. 2-Methoxy-6-methylthio-10-[3-(4-hydroxyethylpiperidino)propyl]-phenothiazine (7.37 g.), melting at 101°-103°C., is obtained.

reactant | 2-methoxy-6-methylthio-10-(3-chloropropyl)phenothiazine | 9.2 g | COC1=CC=2N(C3=CC=CC(=C3SC2C=C1)SC)CCCCl | C17H18ClNOS2
reactant | 4-hydroxyethylpiperidine | 3.2 g | OCCC1CCNCC1 | C7H15NO
reactant | sodium bicarbonate | 8.4 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 90 cc | CN(C=O)C | C3H7NO
product | 2-Methoxy-6-methylthio-10-[3-(4-hydroxyethylpiperidino)propyl]-phenothiazine | 7.9 g | COC1=CC=2N(C3=CC=CC(=C3SC2C=C1)SC)CCCN1CCC(CC1)CCO | C24H32N2O2S2
